US03963706
a. 2-Chloro-N-(4-nitrophenyl)-acetamide
p-Nitroaniline (10.0g) and chloroacetyl chloride (15 ml) were refluxed together 1 hour, mixed with ethyl acetate and washed with water 3 times to yield 11.5 g; mp 183°-185°C.

reactant | p-Nitroaniline | 10.0g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | chloroacetyl chloride | 15 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-N-(4-nitrophenyl)-acetamide | ClCC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C8H7ClN2O3
